Name:  ___.           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Pulmonary embolus
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ gentleman with ___ asthma, EtOH
abuse, disc herniations, and bipolar disorder who presented with
subacute shortness of breath and was subsequently found to have
extensive bilateral pulmonary emboli on CT scan.

The patient reports that his symptoms began approximately 4
months ago when he noticed some swelling in his left leg after
returning on a flight from ___ to ___. The patient was
seen at ___ and lower extremity U/S was performed
which demonstrated extensive thrombosis of the left saphenous
vein extending into the left common femoral. As a result, he was
started on apixaban, which he continued for three months until 
he
was seen by hematology at ___ and told he could stop 
the
apixaban, which he did. Instead, the patient took ASA 81mg BID. 

Over the past several weeks, the patient endorses worsening
exertional dyspnea. For example, the patient reports that he has
noted increasing shortness of breath with ambulation on flat
ground, and also noticed that he will become short of breath
before he is able to finish a sentence. Normally, the patient is
able to jog for approximately 10 miles for about an hour but his
exercise capacity has decreased significantly to the point that
he will become short of breath after a few minutes of even light
exercise. Thus, the patient decided to present to ___
urgent care for further evaluation. There a CTA chest was
performed which demonstrated extensive bilateral PEs throughout
his pulmonary vasculature. As a result, the patient was referred
to ___ ER for further evaluation.

On arrival to ___ ER, the patient's vitals were T 98.7F, HR 
86,
BP 164/90, RR 20, 98% RA. The patient's labs were notable for 
WBC
10.6 and HCO3 20. Otherwise, his labs were normal including
proBNP 115 and troponin <0.01. The patient was admitted to
Medicine for further management. 

On arrival to the floor, the patient's vitals were T 98.4F, HR
78, BP 151/99, RR 18, 96% RA. The patient confirmed the above
history. In addition, the patient endorses several weeks of
worsening, purulent nasal drainage, as well as headache/facial
pain.
 
Past Medical History:
Asthma
EtOH abuse
Disc herniations
Bipolar disorder
 
Social History:
___
Family History:
- Mother (breast cancer, age ___
- Father (unspecified blood clot secondary to traumatic injury)
- Maternal grandmother (breast cancer, age ___
 
Physical Exam:
ADMISSION EXAM
==============
VITALS: T 98.4F, HR 78, BP 151/99, RR 18, 96% RA
GENERAL: Alert and interactive. In no acute distress.
HEENT: Normocephalic, atraumatic. 
NECK: No JVD visualized
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally w/appropriate breath
sounds appreciated in all fields. No wheezes, rhonchi or rales.
No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Negative ___
sign bilaterally.
NEUROLOGIC: Patient is alert and responding to questions
appropriately. Able to move all four extremities. No facial
asymmetry appreciated.

DISCHARGE EXAM
============== 
Vitals: Temp: 98.7 PO BP: 143/92 R Sitting HR: 66 RR: 16 O2 sat:
97% O2 delivery: RA Dyspnea: 0 RASS: 0 Pain Score: ___
General: alert, oriented, no acute distress
Eyes:  Sclera anicteric
HEENT: MMM, oropharynx clear 
Resp: clear to auscultation bilaterally, no wheezes, rales,
ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
GI: soft, non-tender, non-distended, no rebound tenderness or
guarding, no organomegaly  
MSK: warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Neuro: CNs2-12 grossly intact, motor function grossly normal  

 
Pertinent Results:
ADMISSION LABS
==============
___ 01:50PM BLOOD cTropnT-<0.01
___ 01:50PM BLOOD proBNP-115
___ 01:50PM BLOOD WBC-10.6* RBC-4.91 Hgb-15.1 Hct-44.1 
MCV-90 MCH-30.8 MCHC-34.2 RDW-13.6 RDWSD-44.0 Plt ___

DISCHARGE LABS
==============
___ 06:15AM BLOOD ___ PTT-32.5 ___
___ 06:15AM BLOOD Plt ___

IMAGING
=============
Chest CT - ___
IMPRESSION:
Extensive bilateral pulmonary emboli throughout all lobes of the 
lungs with mild increased clot burden on the right, compared to 
the left. There are no emboli within the main pulmonary artery 
or right or left pulmonary arteries. Evidence of right heart 
strain with reflux of contrast into the vena cava. No other 
evidence of right heart strain. No evidence of pulmonary 
infarct.
 
Brief Hospital Course:
Mr. ___ is a ___ year old male with PMH DVT, asthma, EtOH 
abuse, disc herniations, and bipolar disorder who presented with 
subacute shortness of breath and was subsequently found to have
extensive bilateral pulmonary emboli on CT scan. He remained 
hemodynamically stable and continued to have O2 sat in the high 
___ on room air both at rest and with ambulation. He had no 
hemodynamic instability with exertion either. He was started on 
subcutaneous enoxaparin and oral warfarin, with follow up 
arranged with ___ clinic and ___ 
hematology. He was also found to have symptoms of bacterial 
sinusitis and began empiric treatment with 
amoxicillin-clavulanate.

=============
ACUTE ISSUES:
=============
# Submassive pulmonary embolus:
Patient presented with several weeks of worsening exertional
shortness of breath after initially being found to have LLE DVT
four months ago and being treated with apixaban x3 months. CTA
chest demonstrating extensive bilateral emboli throughout the
pulmonary vasculature. CT with evidence of RV strain as well
based on contrast reflux. Presumed apixaban failure, so patient 
was started on warfarin for anticoagulation, with enoxaparin for 
bridging. 

# Sinusitis:
Patient reported symptoms of sinusitis including headache and
purulent nasal drainage for several weeks. Given symptoms have
persisted for several weeks, empirically treated for bacterial
sinusitis with augmentin.

===============
CHRONIC ISSUES:
===============
# Asthma: continued home fluticasone and albuterol
# Psych: continued home trazodone, lamotrigine, escitalopram

TRANSITIONAL ISSUES:
-STARTED: warfarin, enoxaparin, amoxicillin-clavulanate
-CHANGED: none
-STOPPED: aspirin 81mg BID
-Lovenox should be stopped once INR >2
-Can consider outpatient TTE to assess for possible RV 
dysfunction
-___ hematology follow-up arranged for consideration of 
further work-up, duration of anticoagulation
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing 
2. Fluticasone Propionate 110mcg 2 PUFF IH BID 
3. Escitalopram Oxalate 20 mg PO DAILY 
4. LamoTRIgine 150 mg PO DAILY 
5. TraZODone 50 mg PO QHS:PRN sleep 
6. Aspirin 81 mg PO BID 
7. EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 anaphylaxis 
8. ciclopirox 0.77 % topical BID:PRN 
9. Fish Oil (Omega 3) 1000 mg PO DAILY 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H bacterial 
sinusitis Duration: 4 Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*7 Tablet Refills:*0 
2.  Enoxaparin Sodium 130 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 120 mg/0.8 mL 120 mg SC every twelve (12) hours 
Disp #*20 Syringe Refills:*0 
3.  Warfarin 5 mg PO DAILY16 
RX *warfarin 5 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*3 
4.  Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing  
5.  ciclopirox 0.77 % topical BID:PRN  
6.  EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 anaphylaxis  
7.  Escitalopram Oxalate 20 mg PO DAILY  
8.  Fish Oil (Omega 3) 1000 mg PO DAILY  
9.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
10.  LamoTRIgine 150 mg PO DAILY  
11.  TraZODone 50 mg PO QHS:PRN sleep  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
-Pulmonary embolism

SECONDARY DIAGNOSES
- Bacterial sinusitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

 It was a pleasure taking part in your care here at ___!  
 Why was I admitted to the hospital?  
 - You were admitted for shortness of breath on exertion, and 
you were found to have blood clots in your lungs.
 
 What was done for me while I was in the hospital?  
 - You were given intravenous heparin to prevent further 
development of blood clots. You were then started on heparin 
injections and oral warfarin to prevent clotting long-term. We 
also discovered that you had symptoms of a sinus infection, so 
you were started on oral antibiotics.

 What should I do when I leave the hospital?  
 - Make sure to follow up with the ___ clinic and 
warfarin dosing clinic. Until then, continue to give yourself 
the enoxaparin (lovenox) injections and take the oral warfarin 
at home.
 - Take the augmentin for another 3 days

 Sincerely,  
 Your ___ Care Team  

 
Followup Instructions:
___